US06096735
To a solution of 2-(4-bromophenyl)-4,4-dimethyl-2-oxazoline (1 g) in dry tetrahydrofuran (10 ml) are added dropwise magnesium (526 mg) and dry tetrahydrofuran (50 ml) under refluxing. The heating of the mixture is stopped, and thereto is added 2-(4-bromphenyl)-4,4-dimethyl-2-oxazoline (4 g) at a slowly refluxing rate, during which the mixture is stirred for 30 minutes, and then thereto is added o-tolualdehyde (2.16 ml) under ice-cooling. The mixture is stirred under ice-cooling for one hour, and stirred at room temperature for two hours, and the reaction is quenched with adding thereto a saturated aqueous ammonium chloride solution. The mixture is extracted with ethyl acetate, and the organic layer is washed successively with 1N hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=4~2:1) to give 2-{4-[1-(2-methylphenyl)-1-hydroxymethyl]phenyl}-4,4-dimethyl-2-oxazoline (3.07 g) as white powder.

reactant | 2-(4-bromophenyl)-4,4-dimethyl-2-oxazoline | 1 g | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
reactant | magnesium | 526 mg | [Mg] | Mg
reactant | 2-(4-bromphenyl)-4,4-dimethyl-2-oxazoline | 4 g | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
reactant | o-tolualdehyde | 2.16 ml | C=1(C(=CC=CC1)C=O)C | C8H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-{4-[1-(2-methylphenyl)-1-hydroxymethyl]phenyl}-4,4-dimethyl-2-oxazoline | 3.07 g | CC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C19H21NO2
